* NGSPICE file created from pwm_ctrl.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor3_1 abstract view
.subckt sky130_fd_sc_hd__nor3_1 A B C VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor3b_1 abstract view
.subckt sky130_fd_sc_hd__nor3b_1 A B C_N VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o2111ai_1 abstract view
.subckt sky130_fd_sc_hd__o2111ai_1 A1 A2 B1 C1 D1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and3_1 abstract view
.subckt sky130_fd_sc_hd__and3_1 A B C VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2_1 abstract view
.subckt sky130_fd_sc_hd__and2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or2b_1 abstract view
.subckt sky130_fd_sc_hd__or2b_1 A B_N VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21oi_1 abstract view
.subckt sky130_fd_sc_hd__a21oi_1 A1 A2 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o21a_1 abstract view
.subckt sky130_fd_sc_hd__o21a_1 A1 A2 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a211oi_1 abstract view
.subckt sky130_fd_sc_hd__a211oi_1 A1 A2 B1 C1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__inv_2 abstract view
.subckt sky130_fd_sc_hd__inv_2 A VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o211ai_1 abstract view
.subckt sky130_fd_sc_hd__o211ai_1 A1 A2 B1 C1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_16 abstract view
.subckt sky130_fd_sc_hd__clkbuf_16 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_1 abstract view
.subckt sky130_fd_sc_hd__clkbuf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dfxtp_1 abstract view
.subckt sky130_fd_sc_hd__dfxtp_1 CLK D VGND VNB VPB VPWR Q
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_1 abstract view
.subckt sky130_fd_sc_hd__buf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and4_1 abstract view
.subckt sky130_fd_sc_hd__and4_1 A B C D VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a31oi_1 abstract view
.subckt sky130_fd_sc_hd__a31oi_1 A1 A2 A3 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or3_1 abstract view
.subckt sky130_fd_sc_hd__or3_1 A B C VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor2_1 abstract view
.subckt sky130_fd_sc_hd__nor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a31o_1 abstract view
.subckt sky130_fd_sc_hd__a31o_1 A1 A2 A3 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xor2_1 abstract view
.subckt sky130_fd_sc_hd__xor2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2b_1 abstract view
.subckt sky130_fd_sc_hd__and2b_1 A_N B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_2 abstract view
.subckt sky130_fd_sc_hd__clkbuf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dlygate4sd3_1 abstract view
.subckt sky130_fd_sc_hd__dlygate4sd3_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a2111oi_1 abstract view
.subckt sky130_fd_sc_hd__a2111oi_1 A1 A2 B1 C1 D1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a22o_1 abstract view
.subckt sky130_fd_sc_hd__a22o_1 A1 A2 B1 B2 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dfxtp_2 abstract view
.subckt sky130_fd_sc_hd__dfxtp_2 CLK D VGND VNB VPB VPWR Q
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o2bb2a_1 abstract view
.subckt sky130_fd_sc_hd__o2bb2a_1 A1_N A2_N B1 B2 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o31a_1 abstract view
.subckt sky130_fd_sc_hd__o31a_1 A1 A2 A3 B1 VGND VNB VPB VPWR X
.ends

.subckt pwm_ctrl VGND VPWR clk duty[0] duty[1] duty[2] duty[3] duty[4] duty[5] duty[6]
+ duty[7] pwm_out rst
XTAP_TAPCELL_ROW_8_33 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_83_ net9 _39_ _40_ VGND VGND VPWR VPWR _05_ sky130_fd_sc_hd__nor3_1
XPHY_EDGE_ROW_0_Left_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_66_ counter\[2\] _20_ net3 VGND VGND VPWR VPWR _30_ sky130_fd_sc_hd__nor3b_1
X_49_ counter\[6\] _09_ _10_ _11_ _12_ VGND VGND VPWR VPWR _13_ sky130_fd_sc_hd__o2111ai_1
X_82_ counter\[5\] counter\[4\] _37_ VGND VGND VPWR VPWR _40_ sky130_fd_sc_hd__and3_1
X_65_ _13_ _28_ VGND VGND VPWR VPWR _29_ sky130_fd_sc_hd__and2_1
X_48_ counter\[4\] net5 VGND VGND VPWR VPWR _12_ sky130_fd_sc_hd__or2b_1
Xoutput10 net10 VGND VGND VPWR VPWR pwm_out sky130_fd_sc_hd__buf_2
XPHY_EDGE_ROW_6_Right_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_11_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_0_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_81_ counter\[4\] _37_ net16 VGND VGND VPWR VPWR _39_ sky130_fd_sc_hd__a21oi_1
XFILLER_0_10_54 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_47_ counter\[5\] net6 VGND VGND VPWR VPWR _11_ sky130_fd_sc_hd__or2b_1
X_64_ _27_ _16_ _14_ VGND VGND VPWR VPWR _28_ sky130_fd_sc_hd__a21oi_1
XFILLER_0_1_52 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_1_63 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_9_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_7_40 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_80_ net20 _37_ _38_ VGND VGND VPWR VPWR _04_ sky130_fd_sc_hd__o21a_1
X_63_ counter\[6\] _09_ _10_ VGND VGND VPWR VPWR _27_ sky130_fd_sc_hd__o21a_1
XFILLER_0_10_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_46_ counter\[7\] net8 VGND VGND VPWR VPWR _10_ sky130_fd_sc_hd__or2b_1
XPHY_EDGE_ROW_4_Left_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_2_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_10_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_62_ net1 _18_ _22_ _25_ VGND VGND VPWR VPWR _26_ sky130_fd_sc_hd__a211oi_1
X_45_ net7 VGND VGND VPWR VPWR _09_ sky130_fd_sc_hd__inv_2
X_61_ net1 _18_ _23_ _24_ VGND VGND VPWR VPWR _25_ sky130_fd_sc_hd__o211ai_1
XFILLER_0_0_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_10_68 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_10_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_44_ net5 VGND VGND VPWR VPWR _08_ sky130_fd_sc_hd__inv_2
XFILLER_0_1_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_1_66 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_9_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_65 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_7_43 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_10_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_60_ net2 counter\[1\] VGND VGND VPWR VPWR _24_ sky130_fd_sc_hd__or2b_1
XPHY_EDGE_ROW_1_Right_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_10_48 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_10_37 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_4_34 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_EDGE_ROW_11_Left_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_1_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_1_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xclkbuf_0_clk clk VGND VGND VPWR VPWR clknet_0_clk sky130_fd_sc_hd__clkbuf_16
XFILLER_0_9_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_5_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_11_60 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_6_31 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_7_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_EDGE_ROW_5_Right_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_1_49 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_11_Right_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_4_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_11_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_3_Left_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_5_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_5_60 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_0_24 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_11_63 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_11_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput1 duty[0] VGND VGND VPWR VPWR net1 sky130_fd_sc_hd__clkbuf_1
XPHY_EDGE_ROW_9_Right_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_9_34 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_0_25 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
Xinput2 duty[1] VGND VGND VPWR VPWR net2 sky130_fd_sc_hd__clkbuf_1
XFILLER_0_5_50 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_96_ clknet_1_0__leaf_clk _07_ VGND VGND VPWR VPWR counter\[7\] sky130_fd_sc_hd__dfxtp_1
X_79_ counter\[4\] _37_ net9 VGND VGND VPWR VPWR _38_ sky130_fd_sc_hd__a21oi_1
XFILLER_0_2_40 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_95_ clknet_1_0__leaf_clk _06_ VGND VGND VPWR VPWR counter\[6\] sky130_fd_sc_hd__dfxtp_1
Xinput3 duty[2] VGND VGND VPWR VPWR net3 sky130_fd_sc_hd__buf_1
XFILLER_0_11_54 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_11_32 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_10_35 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_78_ net9 _36_ _37_ VGND VGND VPWR VPWR _03_ sky130_fd_sc_hd__nor3_1
XPHY_EDGE_ROW_7_Left_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_0_Right_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_5_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput4 duty[3] VGND VGND VPWR VPWR net4 sky130_fd_sc_hd__clkbuf_1
XFILLER_0_11_44 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_77_ counter\[3\] counter\[2\] counter\[1\] counter\[0\] VGND VGND VPWR VPWR _37_
+ sky130_fd_sc_hd__and4_1
XFILLER_0_5_63 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_1_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_94_ clknet_1_0__leaf_clk _05_ VGND VGND VPWR VPWR counter\[5\] sky130_fd_sc_hd__dfxtp_1
XFILLER_0_5_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xmax_cap11 net12 VGND VGND VPWR VPWR net11 sky130_fd_sc_hd__clkbuf_1
XPHY_EDGE_ROW_10_Left_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_5_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_93_ clknet_1_0__leaf_clk _04_ VGND VGND VPWR VPWR counter\[4\] sky130_fd_sc_hd__dfxtp_1
X_76_ counter\[2\] counter\[1\] counter\[0\] net14 VGND VGND VPWR VPWR _36_ sky130_fd_sc_hd__a31oi_1
Xinput5 duty[4] VGND VGND VPWR VPWR net5 sky130_fd_sc_hd__buf_1
X_59_ counter\[1\] net2 VGND VGND VPWR VPWR _23_ sky130_fd_sc_hd__or2b_1
XTAP_TAPCELL_ROW_3_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_11_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_11_35 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_92_ clknet_1_1__leaf_clk _03_ VGND VGND VPWR VPWR counter\[3\] sky130_fd_sc_hd__dfxtp_1
X_58_ _19_ _20_ _21_ VGND VGND VPWR VPWR _22_ sky130_fd_sc_hd__or3_1
X_75_ _34_ _35_ VGND VGND VPWR VPWR _02_ sky130_fd_sc_hd__nor2_1
Xinput6 duty[5] VGND VGND VPWR VPWR net6 sky130_fd_sc_hd__buf_1
XPHY_EDGE_ROW_4_Right_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_91_ clknet_1_1__leaf_clk _02_ VGND VGND VPWR VPWR counter\[2\] sky130_fd_sc_hd__dfxtp_1
XFILLER_0_10_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_74_ counter\[2\] counter\[1\] net17 net9 VGND VGND VPWR VPWR _35_ sky130_fd_sc_hd__a31o_1
XFILLER_0_5_66 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_5_44 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_1_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput7 duty[6] VGND VGND VPWR VPWR net7 sky130_fd_sc_hd__clkbuf_1
X_57_ counter\[2\] net3 VGND VGND VPWR VPWR _21_ sky130_fd_sc_hd__xor2_1
XFILLER_0_8_66 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_90_ clknet_1_1__leaf_clk _01_ VGND VGND VPWR VPWR counter\[1\] sky130_fd_sc_hd__dfxtp_1
XFILLER_0_5_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_11_48 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_73_ counter\[1\] net13 net19 VGND VGND VPWR VPWR _34_ sky130_fd_sc_hd__a21oi_1
X_56_ net4 counter\[3\] VGND VGND VPWR VPWR _20_ sky130_fd_sc_hd__and2b_1
Xinput8 duty[7] VGND VGND VPWR VPWR net8 sky130_fd_sc_hd__clkbuf_1
XPHY_EDGE_ROW_2_Left_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xclkbuf_1_0__f_clk clknet_0_clk VGND VGND VPWR VPWR clknet_1_0__leaf_clk sky130_fd_sc_hd__clkbuf_16
XFILLER_0_11_38 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_72_ counter\[1\] net13 _33_ VGND VGND VPWR VPWR _01_ sky130_fd_sc_hd__o21a_1
Xinput9 rst VGND VGND VPWR VPWR net9 sky130_fd_sc_hd__clkbuf_2
XFILLER_0_5_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_10_Right_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_55_ counter\[3\] net4 VGND VGND VPWR VPWR _19_ sky130_fd_sc_hd__and2b_1
XFILLER_0_10_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xhold1 counter\[0\] VGND VGND VPWR VPWR net13 sky130_fd_sc_hd__dlygate4sd3_1
XPHY_EDGE_ROW_8_Right_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_1_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_54_ counter\[0\] VGND VGND VPWR VPWR _18_ sky130_fd_sc_hd__inv_2
X_71_ counter\[1\] net17 net9 VGND VGND VPWR VPWR _33_ sky130_fd_sc_hd__a21oi_1
XFILLER_0_8_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xhold2 counter\[3\] VGND VGND VPWR VPWR net14 sky130_fd_sc_hd__dlygate4sd3_1
XFILLER_0_11_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_70_ net13 net9 VGND VGND VPWR VPWR _00_ sky130_fd_sc_hd__nor2_1
XFILLER_0_8_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_TAPCELL_ROW_7_32 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_6_Left_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_53_ _08_ counter\[4\] _13_ _14_ _16_ VGND VGND VPWR VPWR _17_ sky130_fd_sc_hd__a2111oi_1
XPHY_EDGE_ROW_9_Left_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_0_60 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xhold3 counter\[7\] VGND VGND VPWR VPWR net15 sky130_fd_sc_hd__dlygate4sd3_1
X_52_ counter\[6\] _09_ counter\[5\] _15_ VGND VGND VPWR VPWR _16_ sky130_fd_sc_hd__a22o_1
XFILLER_0_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xhold4 counter\[5\] VGND VGND VPWR VPWR net16 sky130_fd_sc_hd__dlygate4sd3_1
XFILLER_0_10_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_51_ net6 VGND VGND VPWR VPWR _15_ sky130_fd_sc_hd__inv_2
Xhold5 counter\[0\] VGND VGND VPWR VPWR net17 sky130_fd_sc_hd__dlygate4sd3_1
XFILLER_0_0_40 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_50_ net8 counter\[7\] VGND VGND VPWR VPWR _14_ sky130_fd_sc_hd__and2b_1
Xhold6 counter\[6\] VGND VGND VPWR VPWR net18 sky130_fd_sc_hd__dlygate4sd3_1
Xclkbuf_1_1__f_clk clknet_0_clk VGND VGND VPWR VPWR clknet_1_1__leaf_clk sky130_fd_sc_hd__clkbuf_16
XTAP_TAPCELL_ROW_1_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_0_52 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_0_63 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_3_Right_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xhold7 counter\[2\] VGND VGND VPWR VPWR net19 sky130_fd_sc_hd__dlygate4sd3_1
XFILLER_0_6_63 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_11_36 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_1_Left_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xhold8 counter\[4\] VGND VGND VPWR VPWR net20 sky130_fd_sc_hd__dlygate4sd3_1
XFILLER_0_9_63 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_0_43 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_11_37 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_6_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_4_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_0_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_0_66 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_7_Right_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_89_ clknet_1_1__leaf_clk _00_ VGND VGND VPWR VPWR counter\[0\] sky130_fd_sc_hd__dfxtp_2
Xwire12 _17_ VGND VGND VPWR VPWR net12 sky130_fd_sc_hd__clkbuf_1
XTAP_TAPCELL_ROW_4_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_0_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_0_34 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_66 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_88_ net15 _41_ _43_ VGND VGND VPWR VPWR _07_ sky130_fd_sc_hd__o21a_1
XPHY_EDGE_ROW_5_Left_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_9_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_9_44 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_0_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_0_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_0_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_8_Left_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_2_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_4_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_87_ net15 _41_ net9 VGND VGND VPWR VPWR _43_ sky130_fd_sc_hd__a21oi_1
XTAP_TAPCELL_ROW_5_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_0_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_3_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_86_ net18 _40_ _42_ VGND VGND VPWR VPWR _06_ sky130_fd_sc_hd__o21a_1
X_69_ net12 _26_ _29_ _32_ VGND VGND VPWR VPWR net10 sky130_fd_sc_hd__o2bb2a_1
XFILLER_0_0_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_0_37 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_85_ net9 _41_ VGND VGND VPWR VPWR _42_ sky130_fd_sc_hd__nor2_1
XFILLER_0_9_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_68_ _19_ _30_ _31_ net11 VGND VGND VPWR VPWR _32_ sky130_fd_sc_hd__o31a_1
XFILLER_0_0_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_0_49 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_EDGE_ROW_2_Right_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_4_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_11_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_84_ counter\[6\] _40_ VGND VGND VPWR VPWR _41_ sky130_fd_sc_hd__and2_1
XFILLER_0_2_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_67_ _23_ _25_ _22_ VGND VGND VPWR VPWR _31_ sky130_fd_sc_hd__a21oi_1
XFILLER_0_0_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_10_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_10_40 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_1_60 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_38 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
.ends

